US06004536
Synthesis of 2-methylene-3-octadecyl-5-phenylbenzoxazole (7):
Powdered 1-octadecanol (15.4 g, 56.9 mmol) and diisopropylethylamine (9.9 mL, 56.9 mmol) are dissolved in 200 mL CHCl3 (dried over molecular sieves). To the above stirred solution is added trifluoromethanesulfonic anhydride (10.4 mL) dropwise over a period of 1 hours. Powdered 5-phenylbenzoxazole (16.7 g, 79.7 mmol) is then added portion-wise over a period of 10 minutes. After stirring overnight, the solution is washed with water and dried with anhydrous Na2SO4. The solution is loaded onto a large silica column and eluted with MeOH/CHCl3. The product is obtained as a colorless solid (20 g, 77%).

reactant | 1-octadecanol | 56.9 mmol, 15.4 g | C(CCCCCCCCCCCCCCCCC)O | C18H38O
reactant | diisopropylethylamine | 56.9 mmol, 9.9 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoromethanesulfonic anhydride | 10.4 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 5-phenylbenzoxazole | 79.7 mmol, 16.7 g | C1(=CC=CC=C1)C=1C=CC2=C(N=CO2)C1 | C13H9NO
solvent | CHCl3 | 200 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-methylene-3-octadecyl-5-phenylbenzoxazole | 20 g, 77% | C=C1OC2=C(N1CCCCCCCCCCCCCCCCCC)C=C(C=C2)C2=CC=CC=C2 | C32H47NO
